US04678499
N-(1,1-Dimethylethyl)-5,6,7,8-tetrahydro-8-hydroxy-1-naphthalenesulfonamide
To a solution of 25.2 g (93.5 mmol) of a 1:1 mixture of N-(1,1-dimethylethyl)-5,6,7,8-tetrahydro-1-naphthalenesulfonamide and N-(1,1-dimethylethyl)-5,6,7,8-tetrahydro-2-naphthalenesulfonamide in 450 mL of tetrahydrofuran at -10° C., was added dropwise 75 mL (187 mmol) of a 2.5M solution of n-butyllithium in hexanes. After 90 minutes at this temperature the reaction mixture had turned red. The reaction mixture was cooled to -78° C. and oxygen was bubbled through for 15 minutes until the red color disappeared. After an additional 15 minutes, 200 mL of 5% NaHSO3 was added. The reaction mixture was extracted with ethyl acetate, dried (Na2SO4) and the solvent was removed with a rotary evaporator. The residue was purified by flash chromatography to give 6.0 g of the title compound as a sticky solid; m.p. 100°-111° C.

reactant | N-(1,1-dimethylethyl)-5,6,7,8-tetrahydro-1-naphthalenesulfonamide | CC(C)(C)NS(=O)(=O)C1=CC=CC=2CCCCC12 | C14H21NO2S
reactant | N-(1,1-dimethylethyl)-5,6,7,8-tetrahydro-2-naphthalenesulfonamide | CC(C)(C)NS(=O)(=O)C1=CC=2CCCCC2C=C1 | C14H21NO2S
reactant | n-butyllithium | C(CCC)[Li]
solvent | tetrahydrofuran | 450 mL | O1CCCC1 | C4H8O
product | N-(1,1-Dimethylethyl)-5,6,7,8-tetrahydro-8-hydroxy-1-naphthalenesulfonamide | 6.0 g | CC(C)(C)NS(=O)(=O)C1=CC=CC=2CCCC(C12)O | C14H21NO3S
